US05516774
6,7-Dihydro-5-(4-amino-2-chlorobenzoyl)-5H-pyrrolo-[1,2-a][1,5]benzodiazepine
To a solution of 0.50 g of 6,7-dihydro-5-(2-chloro-4-nitrobenzoyl)-5H-pyrrolo[1,2-a][1,5]benzodiazepine in 10 ml of ethyl alcohol and 2 ml of tetrahydrofuran is added 2.35 g of SnCl2.2H2O and the mixture stirred at 55° C. for 30 minutes. The solvents are evaporated in vacuo to a residue which is stirred with 20 ml of 1N NaOH and 40 ml of ethyl acetate for 15 minutes and filtered through diatomaceous earth. The filter pad is washed with 2×10 ml of ethyl acetate and the combined extracts washed with brine, dried Na2SO4) and evaporated in vacuo to give 0.47 g of solid residue which is triturated with ether-hexane to give 0.43 g of light yellow crystalline solid. MS(CI): 338(M+H, Cl35) 340(M+H, Cl37)

reactant | 6,7-dihydro-5-(2-chloro-4-nitrobenzoyl)-5H-pyrrolo[1,2-a][1,5]benzodiazepine | 0.50 g | ClC1=C(C(=O)N2CCC=3N(C4=C2C=CC=C4)C=CC3)C=CC(=C1)[N+](=O)[O-] | C19H14ClN3O3
reactant | SnCl2.2H2O | 2.35 g | O.O.Cl[Sn]Cl
solvent | ethyl alcohol | 10 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 6,7-Dihydro-5-(4-amino-2-chlorobenzoyl)-5H-pyrrolo-[1,2-a][1,5]benzodiazepine | 0.47 g | NC1=CC(=C(C(=O)N2CCC=3N(C4=C2C=CC=C4)C=CC3)C=C1)Cl | C19H16ClN3O
